US07790727B2
5-Difluoromethoxy-2-methoxy-N-(4-methoxy-3-piperazin-1-yl-phenyl)-benzene-sulfonamide Hydrochloride
The compound was prepared as described for Example 1 by reaction of 4-(5-amino-2-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester with commercially available 5-difluoromethoxy-2-methoxybenzenesulfonylchloride followed by deprotection under acidic conditions.

reactant | 4-(5-amino-2-methoxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)N)OC | C16H25N3O3
reactant | 5-difluoromethoxy-2-methoxybenzenesulfonylchloride | FC(OC=1C=CC(=C(C1)S(=O)(=O)Cl)OC)F | C8H7ClF2O4S
product | 5-Difluoromethoxy-2-methoxy-N-(4-methoxy-3-piperazin-1-yl-phenyl)-benzene-sulfonamide Hydrochloride | Cl.FC(OC=1C=CC(=C(C1)S(=O)(=O)NC1=CC(=C(C=C1)OC)N1CCNCC1)OC)F | InChI=1S/C19H23F2N3O5S.ClH/c1-27-16-5-3-13(11-15(16)24-9-7-22-8-10-24)23-30(25,26)18-12-14(29-19(20)21)4-6-17(18)28-2;/h3-6,11-12,19,22-23H,7-10H2,1-2H3;1H
